US05053394
To 1.96 g (7.5 mmol) of the above ester in 15 ml of methanol and 15 ml of tetrahydrofuran was added B 10 ml of 1N aqueous sodium hydroxide. After 30 minutes, 4 ml of 10% aqueous hydrochloric acid was added. The organic solvents were evaporated and the resultant crystalline product was filtered and washed with cold ethanol and then ether. This material was dissolved in 20 ml of tetrahydrofuran and 4 ml of dimethylformamide. Dicyclohexylcarbonyldiimidazole (1.3 g, 2.2 eq) was added and the reaction allowed to stir for 15 minutes. Cysteine ethyl ester hydrochloride (1.6 g, 2.5 eq) and triethylamine (1.2 ml) were then added. After a further three hours, the reaction was diluted with ethyl ether containing 5% methylene chloride and washed once with 10% aqueous hydrochloric acid and twice with brine. After drying with magnesium sulfate and evaporating the solvents, the crude product was crystallized by dissolving in chloroform containing a minimal amount of ethanol and then added an excess of ether. The crystals were filtered and dried to give pure N-[[(4-methyl-coumarin-7-yl)amino]acetyl]cysteine ethyl ester.

reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | Dicyclohexylcarbonyldiimidazole | 1.3 g, 2.2 eq | C1(CCCCC1)C=1N=C(N(C(=O)N2C=NC=C2)C1)C1CCCCC1 | C19H26N4O
reactant | Cysteine ethyl ester hydrochloride | 1.6 g, 2.5 eq | Cl.C(C)OC([C@@H](N)CS)=O
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | N-[[(4-methyl-coumarin-7-yl)amino]acetyl]cysteine ethyl ester | C(C)OC([C@@H](NC(CNC1=CC=C2C(=CC(OC2=C1)=O)C)=O)CS)=O | C17H20N2O5S
